US09388173B2
Step 1: 3-bromobenzene-1,2-diamine
A mixture of 3-bromo-2-nitroaniline (2 g, 9.2 mmol), Fe powder (1.54 g, 27.6 mmol) and NH4Cl (4.8 g, 52 mmol) in EtOH and H2O was stirred under reflux for 1 h. The mixture was cooled to room temperature and filtered. The filtrate was diluted water extracted with ethyl acetate and the combined organic layers were dried and concentrated in vacuum to give the crude desired product (1.7 g, Yield 85%). This crude was used in the next step without further purification.

reactant | 3-bromo-2-nitroaniline | 9.2 mmol, 2 g | BrC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5BrN2O2
reactant | NH4Cl | 52 mmol, 4.8 g | [NH4+].[Cl-]
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
catalyst | Fe | 27.6 mmol, 1.54 g | [Fe] | Fe
product | 3-bromobenzene-1,2-diamine | 1.7 g, Yield 85% | BrC1=C(C(=CC=C1)N)N | C6H7BrN2
